US05668291
2-[2-(4-Sulfamoylphenylcarbamoyl)phenyldisulfanyl]benzoic acid
This compound was prepared according to the method of Example 132 using a suspension of 0.46 g (1.5 mmol) of 4-(3-oxo-3H-benzo[d]isothiazol-2-yl)benzene sulfonamide in a mixture of 15 mL of methanol and 15 mL of tetrahydrofuran, and 0.23 g (1.5 mmol) of thiosalicylic acid. The product was washed with ether and dried in vacuo to give 0.66 g of the title compound, mp 276°-278° C.

reactant | 4-(3-oxo-3H-benzo[d]isothiazol-2-yl)benzene sulfonamide | 1.5 mmol, 0.46 g | O=C1N(SC2=C1C=CC=C2)C2=CC=C(C=C2)S(=O)(=O)N | C13H10N2O3S2
reactant | thiosalicylic acid | 1.5 mmol, 0.23 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
solvent | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-[2-(4-Sulfamoylphenylcarbamoyl)phenyldisulfanyl]benzoic acid | 0.66 g | S(N)(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)O)C=CC=C1 | C20H16N2O5S3
